US04521422
(5-Methyl-7-phenylpyrazolo[1,5-a]pyrimidin-3-yl)phenyl-methanone
A mixture of 0.01 mole of 1-(3-phenyl)butan-1,3-dione and 0.01 mole of (3-amino-1H-pyrazol-4-yl)phenyl-methanone in 25 ml of n-butanol was refluxed for 8 hours. The solvent was removed and the product isolated as described in Example 1, giving the desired product as crystals, mp 165°-166° C.

reactant | (3-amino-1H-pyrazol-4-yl)phenyl-methanone | 0.01 mole | NC1=NNC=C1C(=O)C1=CC=CC=C1 | C10H9N3O
reactant | n-butanol | 25 ml | C(CCC)O | C4H10O
product | (5-Methyl-7-phenylpyrazolo[1,5-a]pyrimidin-3-yl)phenyl-methanone | CC1=NC=2N(C(=C1)C1=CC=CC=C1)N=CC2C(=O)C2=CC=CC=C2 | C20H15N3O
